US07122570B2
13.07 mmol (3.0 g) of methyl 4-chloro-3-nitrobenzeneacetate and 198.8 mmol (13.0 g) of Zn dust are refluxed in 500 ml of MeOH for 10 minutes. Then, 13 ml of concentrated HCl is added in drops under reflux and refluxed for another 30 minutes. The suspension is hot-filtered, the methanol is distilled off, and the residue is set at pH 14 with NaHCO3 solution. Extraction with ethyl acetate, drying with Na2SO4 and distillation of the solution yields 2.3 g of methyl 3-amino-4-chlorobenzeneacetate as a beige solid.

reactant | methyl 4-chloro-3-nitrobenzeneacetate | 13.07 mmol, 3.0 g | ClC1=C(C=C(C=C1)CC(=O)OC)[N+](=O)[O-] | C9H8ClNO4
reactant | HCl | 13 ml | Cl | ClH
solvent | MeOH | 500 ml | CO | CH4O
catalyst | Zn | 198.8 mmol, 13.0 g | [Zn] | Zn
product | methyl 3-amino-4-chlorobenzeneacetate | 2.3 g | NC=1C=C(C=CC1Cl)CC(=O)OC | C9H10ClNO2
